US05821240
(8) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[1-methoxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[1-tert-butyloxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine by reaction with trifluoroacetic acid and subsequent reaction with methyl chloroformate. Melting point: 213°-215° C,; Rf : 0.24 (silica gel; petroleum ether/ethyl acetate/methanol=20:10:1)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[1-tert-butyloxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H25ClFN7O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[1-methoxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NC2CCN(CC2)C(=O)OC | C19H19ClFN7O2
